US08580777B2
D. 9H-Fluoren-9-ylmethyl ((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),4,14(18),15-tetraen-12-yl)carbamate
A solution of 1.25 g (2.20 mmol) of 9H-fluoren-9-ylmethyl [(R)-1-((S)-1-allyloxymethyl-2-methylpropylcarbamoyl)-2-(4-allyloxyphenyl)ethyl]carbamate and 0.40 g (0.659 mmol) of dichloro(o-isopropoxyphenylmethylene)(tricyclohexylphosphine)ruthenium (Hoyveda-Grubbs catalyst) in 610 ml of dichloromethane was stirred at 40° C. for 24 h. The reaction mixture was then concentrated, and the residue was purified by chromatography on silica gel. 1.03 g of the desired compound were obtained as a colorless solid.

reactant | 9H-fluoren-9-ylmethyl [(R)-1-((S)-1-allyloxymethyl-2-methylpropylcarbamoyl)-2-(4-allyloxyphenyl)ethyl]carbamate | 2.20 mmol, 1.25 g | C(C=C)OC[C@H](C(C)C)NC(=O)[C@@H](CC1=CC=C(C=C1)OCC=C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C35H40N2O5
solvent | dichloromethane | 610 ml | ClCCl | CH2Cl2
product | 9H-Fluoren-9-ylmethyl ((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),4,14(18),15-tetraen-12-yl)carbamate | 1.03 g | C(C)(C)[C@H]1COCC=CCOC=2C=CC(C[C@H](C(N1)=O)NC(OCC1C3=CC=CC=C3C=3C=CC=CC13)=O)=CC2 | C33H36N2O5
